US08003785B2
A mixture of 0.0697 g (0.154 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzoic acid (I-232), 4 mL of dimethylformamide, 0.0783 g (0.20 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 0.103 mg (0.804 mmole) of diisopropylethylamine was stirred for 20 minutes, then 0.0166 g (0.31 mmole) of ammonium chloride was added. The reaction mixture was stirred for 1.5 hours and then 150 mL of ethyl acetate and 25 mL of water was added. The organic layer was washed with 25 mL of ammonium chloride solution, 25 mL of water, 25 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.040 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzamide (I-241).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzoic acid | 0.154 mmole, 0.0697 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2F)F | C20H19F4N5O3
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.20 mmole, 0.0783 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 0.804 mmole, 0.103 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.31 mmole, 0.0166 g | [Cl-].[NH4+]
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzamide | 0.040 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)N)C=C2F)F | C20H20F4N6O2
